US04859662
1,2,3,9-Tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-(phenylmethyl)-4H-carbazol-4-one
A solution of 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one (500 mg) in dry DMF (3 ml) was added dropwise to a stirred suspension of sodium hydride (73% dispersion in oil; 38 mg) in dry DMF (1 ml) under nitrogen. After 20 min. benzyl bromide (0.14 ml) was added and the mixture was stirred for 3 h. Water (50 ml) was added and the suspension was extracted with dichloromethane (3×25 ml). The combined, dried organic extracts were evaporated to give an oil (ca. 850 mg) which was purified by FCC (column made up in ethyl acetate:hexane:triethylamine 79:20:1) eluting with ethyl acetate:hexane (4:1) to give the title compound (265 mg) as a solid, m.p. 78°-80°.

reactant | 1,2,3,9-tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-4H-carbazol-4-one | 500 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1CCC=2NC3=CC=CC=C3C2C1=O | C36H31N3O
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | benzyl bromide | 0.14 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | 50 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1,2,3,9-Tetrahydro-3-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-(phenylmethyl)-4H-carbazol-4-one | ca. 850 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1CCC=2N(C3=CC=CC=C3C2C1=O)CC1=CC=CC=C1 | C43H37N3O
